US07632832B2
Step A. Methyl N-{[(1-tert-butoxycarbonylpiperidin-4-yl)amino]carbonyl}valinate
4-Amino-1-boc-piperidine (205 mg, 1.02 mmol) and triethylamine (0.143 μL, 1.02 mmol) in tetrahydrofuran (5 mL) were added to a solution of p-nitrophenylchloroformate (206 mg, 1.02 mmol) in tetrahydrofuran (15 mL) at 0° C. After 1 h, additional triethylamine was added (0.286 mL, 2.04 mmol) along with DL-valine methyl ester hydrochloride (134 mg, 1.02 mmol). The reaction warmed to ambient temperature and was then heated to 50° C. After 2 h, the mixture was filtered, concentrated and redissolved in ethyl acetate. The ethyl acetate layer was washed with 1N sodium hydroxide (3×), saturated sodium bicarbonate solution, water, brine, and dried over sodium sulfate. Purification by silica gel chromatography (100% dichloromethane→7% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (300 mg). MS 358.28 (M+1)

reactant | 4-Amino-1-boc-piperidine | 1.02 mmol, 205 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 1.02 mmol, 0.143 μL | C(C)N(CC)CC | C6H15N
reactant | DL-valine methyl ester hydrochloride | 1.02 mmol, 134 mg | Cl.COC(C(N)C(C)C)=O
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Methyl N-{[(1-tert-butoxycarbonylpiperidin-4-yl)amino]carbonyl}valinate | 300 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)N[C@@H](C(C)C)C(=O)OC | C17H31N3O5
